US05998433
e) Synthesis of 7-tert-butoxycarbonyl-5,6,7,8-tetrahydro-4H-furo[2,3-c]azepine
A solution of 0.847 g (4.779 mmol) of 7-allyl-5,6,7,8-tetrahydro-4H-furo[2,3-c]azepine, 0.22 g (0.24 mmol) of chlorotris(triphenylphosphine)rhodium (I) and 0.11 g (0.96 mmol) of 1,4-diazabicyclo[2,2,2]octane in 50 ml of 90% aqueous ethanol was refluxed for 5 hours. After cooling to room temperature, the reaction mixture was poured into aqueous sodium hydroxide and extracted with dichloromethane 3 times. The combined organic layer was dried over anhydrous magnesium sulfate; the solvent was distilled off under reduced pressure. The resulting residue (crude 5,6,7,8-tetrahydro-4H-furo[2,3-c]azepine) was dissolved in 50 ml of dichloromethane. To this solution, a solution of 1.56 g (7.17 mmol) of di-tert-butyl dicarbonate in 20 ml of dichloromethane was added dropwise at room temperature, followed by overnight stirring. The solvent was distilled off under reduced pressure; the resulting crude product was purified by silica gel column chromatography (hexane/ethyl acetate=15/1) to yield the desired product.

reactant | 7-allyl-5,6,7,8-tetrahydro-4H-furo[2,3-c]azepine | 4.779 mmol, 0.847 g | C(C=C)N1CC2=C(CCC1)C=CO2 | C11H15NO
reactant | 1,4-diazabicyclo[2,2,2]octane | 0.96 mmol, 0.11 g | N12CCN(CC1)CC2 | C6H12N2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | di-tert-butyl dicarbonate | 7.17 mmol, 1.56 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
catalyst | chlorotris(triphenylphosphine)rhodium (I) | 0.24 mmol, 0.22 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Cl-].[Rh]
product | 7-tert-butoxycarbonyl-5,6,7,8-tetrahydro-4H-furo[2,3-c]azepine | C(C)(C)(C)OC(=O)N1CC2=C(CCC1)C=CO2 | C13H19NO3
